US09029544B2
(52) (S)-ethyl 5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carboxylate
Obtained by starting from (S)-ethyl 5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carboxylate and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. A 2 M solution of caesium carbonate in water is used instead caesium fluoride. The reaction is run in tetrahydrofurane/toluene 4:1.

reactant | (S)-ethyl 5-(tert-butyldimethylsilyloxy)-4-iodo-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)C(=O)OCC)I | C25H40INO4Si
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium fluoride | [F-].[Cs+]
solvent | water | O | H2O
solvent | tetrahydrofurane toluene | O1CCCC1.C1(=CC=CC=C1)C
product | (S)-ethyl 5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)C(=O)OCC)C=1CCOCC1 | C30H47NO5Si
